US07691882B2
6-(Pyridin-3-yloxy)-pyridine-3-carbaldehyde
To a suspension of sodium hydride (407 mg, 8.48 mmol, 50% in oil) and N,N-dimethylformamide (45 mL) was added an N,N-dimethylformamide (5 mL) solution of 3-hydroxypyridine (806 mg, 8.48 mmol) at 0° C., which was stirred for 30 minutes. An N,N-dimethylformamide (5 mL) solution of 2-chloro-5-formylpyridine (1.0 g, 7.06 mmol) was added to this reaction mixture at the same temperature, which was stirred for 5 hours at 100° C. The reaction mixture was cooled to room temperature, and water was added thereto, which was extracted with ethyl acetate. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate) to obtain the title compound (505.1 mg, 36%).

reactant | sodium hydride | 8.48 mmol, 407 mg | [H-].[Na+]
reactant | N,N-dimethylformamide | 45 mL | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | 3-hydroxypyridine | 8.48 mmol, 806 mg | OC=1C=NC=CC1 | C5H5NO
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | 2-chloro-5-formylpyridine | 7.06 mmol, 1.0 g | ClC1=NC=C(C=C1)C=O | C6H4ClNO
solvent | water | O | H2O
product | 6-(Pyridin-3-yloxy)-pyridine-3-carbaldehyde | 505.1 mg, 36% | N1=CC(=CC=C1)OC1=CC=C(C=N1)C=O | C11H8N2O2
